US04997836
To a mixture of methyl 1-tert-butoxycarbon-vl-4(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate (500 mg), methanol (3 ml) and water (3 ml) is added sodium hydroxide (100 mg), which is stirred for 30 minutes at room temperature. The reaction mixture is poured into a 5% aqueous solution of citric acid, followed by extraction with dichloromethane. The organic layer is dried and then concentrated to give a crude product, which is recrystallized from ethyl acetate to afford 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxy-benzoyl)piperazine-2-carboxylic acid (400 mg) as colorless crystals, m.p. 188-190° C.

reactant | methyl 1-tert-butoxycarbon-vl-4(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 500 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)OC | C21H30N2O8
reactant | methanol | 3 ml | CO | CH4O
reactant | sodium hydroxide | 100 mg | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 3 ml | O | H2O
product | 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxy-benzoyl)piperazine-2-carboxylic acid | 400 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)O | C20H28N2O8
